US06455520B1
N-{4-methyl-3-[4-(2-methylthiazol4-ylmethoxy)benzamido]phenyl}-2-morpholinopyridine-4-carboxamide
Using an analogous procedure to that described in the first paragraph of Example 26, 4-(2-methylthiazol4-ylmethoxy)benzoic acid was reacted with N-(3-amino4-methylphenyl)-2-morpholinopyridine-4-carboxamide. The reaction product was purified by column chromatography on silica using a 97:3 mixture of methylene chloride and methanol as eluent. There was thus obtained to give the title compound; NMR Spectrum: (DMSOd6) 2.2 (s, 3H), 2.44 (s, 3H), 3.5 (t, 4H), 3.7 (t, 4H), 5.19 (s, 2H), 7.11 (m, 3H), 7.23 (m, 2H), 7.4 (t, 2H), 7.54 (m, 3H), 7.68 (d, 1H), 7.78 (d, 1H), 7.96 (d, 2H), 8.24 (d, 1H), 9.73 (s, 1H), 10.27 (s, 1H); Mass Spectrum: M+H+ 544.

reactant | 4-(2-methylthiazol4-ylmethoxy)benzoic acid | CC=1SC=C(N1)COC1=CC=C(C(=O)O)C=C1 | C12H11NO3S
reactant | N-(3-amino4-methylphenyl)-2-morpholinopyridine-4-carboxamide | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
product | N-{4-methyl-3-[4-(2-methylthiazol4-ylmethoxy)benzamido]phenyl}-2-morpholinopyridine-4-carboxamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=CC=C(C=C1)OCC=1N=C(SC1)C)=O | C29H29N5O4S
